Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting, duodenal stent revision
 
Major Surgical or Invasive Procedure:
EGD with duodenal stent placement ___
 
History of Present Illness:
___ yo ___ man with history of hypertension,
hyperlipidemia, pre-diabetes, essential thrombocytopenia,
non-melanoma skin cancer, and recent diagnosis of pancreatic
adenocarcinoma complicated by gastric outlet obstruction s/p
duodenal stent now p/w nausea and vomiting concerning for stent
obstruction and admitted for monitoring after stent revision. 

History obtained primarily from ___ given patient's limited
___ proficiency. 

Patient started to develop sx of abdominal pain in ___
but did not seek medical attention until ___ when he
presented to ___ multiple times for severe
abdominal pain, n/v and was found to have a mass in the area of
the pancreas and duodenum. EGD/EUS was performed and FNA showed
adenocarcinoma. He presented for outpatient evaluation at ___
on ___ and was found to have ___ in the setting of vomiting and
abdominal pain. EGD showed severe stenosis of D3 with friable 
and
edematous mucosa as well as esophagitis which correlated to
an abnormal area of circumferential wall thickening in the lower
esophagus/upper stomach raising concern for possible carcinoma. 
A
duodenal stent was placed with improvement, but he now presents
with nausea and vomiting with suspected stent occlusion. He
underwent an EGD which showed partial obstruction of the stent
which was ballooned, then a second duodenal stent was placed. 

On arrival to floor, the patient denies any pain or complaints. 

ROS: Positive as per HPI, all systems reviewed and otherwise
negative

 
Past Medical History:
-Hypertension
-Hyperlipidemia
-Pre-diabetes
-Essential thrombocytopenia
-Pancreatic adenocarcinoma on FOLFOX

PSH: Removal of skin cancer on his forehead
 
Social History:
___
Family History:
The patient's father died of an MI at ___ years.
Her mother died with type 2 diabetes mellitus.  A sister died
with colon cancer at ___ years.  Another sister died of
___ disease.  She has two sons without health concerns.
 
Physical Exam:
Admission Physical Exam:
VS: 99 122/60 60 16 98% room air   
General: Well appearing but thin man lying in bed in NAD
Eyes: PERLL, EOMI, sclera anicteric
ENT: MMM, oropharynx clear without exudate or lesions 
Lymph: No supraclavicular or cervical lymphadenopathy
Respiratory: CTAB without crackles, wheeze, rhonchi. 
Cardiovascular: RRR, normal S1 and S2, no murmurs, rubs or
gallops
Gastrointestinal: Soft, nontender, nondistended, +BS, no masses
or HSM
Extremities: Warm and well perfused, no peripheral edema 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, motor and sensory exam
grossly intact 

discharge
98.5 103/49 81 18 95 RA
aox3
ambulatory
appears well
not coughing
clear breath sounds no rales or crackles or wheezes
soft non tender abdomen 
 
Pertinent Results:
IMAGING: 
___ EGD
-Normal mucosa in the esophagus
-Normal mucosa in the stomach
-The scout film shoed the previously placed duodenal stent in
place. 
-During the EGD a partial obstruction of the stent by tissue
ingrowth was noted. 
-A guidewire was used to transvese the stricture. 
-An extraction balloon was used and moderate resistance was 
noted
at the mid end of the duodenal stent. 
-Due to these signs of partial obstraction a decision to proceed
with placement of a second duodenal stent within the previously
plcaed one. 
-A 9cm by 22mm metal stent was placed successfully ( ref #
___ ___ # ___.  
-Otherwise normal EGD to third part of the duodenum

Compared to ___, interval decrease in size of a 
mass at the 
uncinate process of the pancreas, which again infiltrates the 
duodenal wall 
and retroperitoneum and contacts the IVC and aorta.  Unchanged 
duodenal stent, 
which appears patent. 
2. As before, the right proximal ureter is tethered towards the 
retroperitoneal infiltrate, causing interval increase in 
moderate right 
hydronephrosis. 
3. Interval increase in ___ consolidation in the right 
lower lobe, 
concerning for pneumonia or aspiration. 
4. There is an incompletely imaged 1.4 x 1.3 cm hypodense lesion 
in the right 
middle lobe, new from ___, which may be related to 
the infectious 
process, given rapid growth, however, metastasis cannot be 
excluded. 
5. Small nonhemorrhagic right pleural effusion. 

___ 07:15AM BLOOD WBC-8.2 RBC-3.85* Hgb-10.6* Hct-33.2* 
MCV-86 MCH-27.5 MCHC-31.9* RDW-13.4 RDWSD-41.0 Plt ___
___ 07:35AM BLOOD Glucose-90 UreaN-14 Creat-1.4* Na-135 
K-4.8 Cl-97 HCO3-28 AnGap-15
___ 07:15AM BLOOD Albumin-2.7* Calcium-8.1* Phos-3.1 Mg-1.___ yo ___ man with history of hypertension,
hyperlipidemia, pre-diabetes, essential thrombocytopenia,
non-melanoma skin cancer, and recent diagnosis of pancreatic
adenocarcinoma complicated by gastric outlet obstruction s/p
duodenal stent now p/w nausea and vomiting concerning for stent
obstruction and admitted for monitoring after stent revision. 

#Duodenal Obstruction/pancreatic adenocarcinoma: Recent 
diagnosis
of pancreatic malignancy, started FOLFOX at OSH about two weeks
ago and is being followed by surgical oncology and pancreatic
center at ___. Duodenal stent placed a little more than one
month ago but has had recurrence of n/v, found to have partial
obstruction of stent and now s/p revision of stent and placement
of ___ stent on ___. Patient initially did well, but then had 
some episodes of vomiting.  These episodes were transient.

He was able to advance to a mechanically soft low fiber diet 
with specific instructions that were provided to him by MD and 
nutritionist with in person translator several times. 

#Esophagitis/gastritis: As part of malignancy staging, on prior
admission, patient underwent a CT chest that showed a 
"possible primary carcinoma is the lower esophagus upper 
stomach, with circumferential wall thickening."  Per review of 
imaging with advanced endoscopy service, this area correlated 
with area of esophagitis / gastritis seen on endoscopy.  On 
Endoscopy on ___ Normal mucosa in the esophagus Normal mucosa 
in the stomach

He remains on PPI.  

#Hyperlipidemia: atorvastatin 

#Hypertension: Stable, had been held at last discharge given
normotension and recent ___.  holding lisinopril

He had mild hyponatremia

He had mild acute renal insufficiency with creat 1.4 prior to 
discharge and stable for 48hrs.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 
2. Pantoprazole 40 mg PO Q12H 
3. Lisinopril 20 mg PO DAILY 
4. Ondansetron 4 mg PO Q8H:PRN Nausea 
5. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Atorvastatin 20 mg PO QPM  
3.  Ondansetron 4 mg PO Q8H:PRN Nausea  
4.  Pantoprazole 40 mg PO Q12H  
5. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until BP is higher

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with vomiting and found to have a blocked 
duodenal stent. You had a procedure to fix this blockage and a 
second stent was placed in your duodenum.

we reviewed the special diet to avoid blocking this stent.

 
Followup Instructions:
___